US07947676B2
1-(2-{[4-({3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl)piperidin-4-ol
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine and 4-hydroxypiperidine to give the title compound in 36% yield; NMR Spectrum: 1.32-1.38 (m, 2H), 1.67-1.69 (m, 2H), 2.16 (t, 2H), 2.45 (s, 3H), 2.79 (m, 4H), 3.40-3.44 (m, 1H), 4.43 (t, 2H), 4.52 (br s, 1H), 7.20 (d, 1H), 7.26 (br s, 2H), 7.71 (d, 1H), 8.12 (s, 1H), 8.21 (s, 1H), 8.35 (s, 1H), 8.61 (br s, 1H); Mass Spectrum: 496 (MH+).

reactant | 3-(2-chloroethoxy)-N-{3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)Cl | C19H16Cl2N6O2
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 1-(2-{[4-({3-chloro-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl)piperidin-4-ol | 36% yield | ClC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=C2C(=NC=N1)NN=C2OCCN2CCC(CC2)O | C24H26ClN7O3
